US09034880B2
Preparation of 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(2-methylpyrimidin-5-yl)ethyl)-1H-pyrido[4,3-b]indole (Compound 323)
To a solution of 2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.1 g, 0.0005 mol) in N-methyl 2-pyrolidone (1.0 mL) was added powdered potassium hydroxide (0.14 g, 0.0025 mol) and allowed to stir r for 10 min at RT. 2-methyl-5-vinyl pyrimidine (0.151 g, 0.0012 mol) was added and stirred for further 3 h at 80 deg C. After completion (TLC), reaction mixture was diluted with water (15 mL) and extracted with ethyl acetate (3×50 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure using rotary evaporator. The crude was purified through column chromatography (7% MeOH:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch) then purified through preparative TLC. to get the desired compound as yellow oil (0.025 g, 16% yield). 2,8-Dimethyl-5-[2-(2-methyl-pyrimidin-5-yl)-ethyl]-2,3,4,5-tetrahydro-1H-pyrid[4,3-b]indole (0.025 g, 0.000078 mol) was dissolved in THF (1.0 mL). A solution of oxalic acid dihydrate (0.0098 g, 0.000078 mol) in THF (1.0 mL) was added and stirred for 30 min at RT, Precipitate obtained was filtered and dried to give oxalate salt as off white solid (0.015 g, 47% yield).

reactant | 2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.0005 mol, 0.1 g | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | potassium hydroxide | 0.0025 mol, 0.14 g | [OH-].[K+]
reactant | 2-methyl-5-vinyl pyrimidine | 0.0012 mol, 0.151 g | CC1=NC=C(C=N1)C=C | C7H8N2
solvent | N-methyl 2-pyrolidone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 15 mL | O | H2O
product | 2,3,4,5-tetrahydro-2,8-dimethyl-5-(2-(2-methylpyrimidin-5-yl)ethyl)-1H-pyrido[4,3-b]indole | 0.025 g, 16% yield | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=NC2)C)CC1 | C20H24N4
